US09102671B2
A mixture of (2R,4R)-tert-butyl 2-(3-fluorophenyl)-4-((methylsulfonyl)oxy)pyrrolidine-1-carboxylate (I-29) (165 mg, 0.46 mmol), potassium cyanide (36 mg, 0.55 mmol) and DMSO (2 mL) was heated at 90° C. for 3 hours. After cooling, the reaction mixture was partitioned in Et2O and water. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated to dryness. The residue was purified by silica gel chromatography, eluted with EtOAc/Hex (0-50% gradient) to yield (2R,4S)-tert-butyl 4-cyano-2-(3-fluorophenyl)-pyrrolidine-1-carboxylate (I-30) as a colorless oil. 1H NMR (400 MHz, CDCl3) δ 7.35-7.30 (m, 1 H), 7.02-6.93 (m, 2 H), 6.87 (d, J=9.6 Hz, 1 H), 5.16r1 (bs, 0.4 H), 5.00r2 (bs, 0.6 H), 4.00-3.73 (m, 2 H), 3.16 (bs, 1 H), 2.67 (bs, 1 H), 2.25-2.21 (m, 1 H), 1.49 (bs, 3 H), 1.23 (bs, 6 H). MS m/z 313.1 (M+23)+.

reactant | (2R,4R)-tert-butyl 2-(3-fluorophenyl)-4-((methylsulfonyl)oxy)pyrrolidine-1-carboxylate | FC=1C=C(C=CC1)[C@@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OC(C)(C)C | C16H22FNO5S
reactant | potassium cyanide | 0.55 mmol, 36 mg | [C-]#N.[K+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (2R,4S)-tert-butyl 4-cyano-2-(3-fluorophenyl)-pyrrolidine-1-carboxylate | C(#N)[C@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)F | C16H19FN2O2
